US08283353B2
4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
To a solution of 4′-{(4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (27.7 g) in tetrahydrofuran (200 mL) was added 3M hydrochloric acid (200 mL), and the mixture was stirred at 60° C. for 15 hr. The mixture was allowed to cool to room temperature, diluted with ethyl acetate, and neutralized with 8M aqueous sodium hydroxide solution. The mixture was extracted with ethyl acetate, and the organic layer was successively washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was crystallized using ethyl acetate, and the resulting solid was collected by filtration, and dissolved in tetrahydrofuran (100 mL). This solution was added dropwise to a solution of lithium borohydride (2M tetrahydrofuran solution, 37 mL) in tetrahydrofuran (150 mL) at −5° C. over 30 min. After stirring for 1.5 hr, ethyl acetate and saturated aqueous ammonium chloride solution were added. The mixture was extracted with ethyl acetate, and the organic layer was successively washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (21.1 g, 84%).

reactant | 4′-{(4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 27.7 g | O1CCOC12CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=CC1 | C31H32N4O3
reactant | hydrochloric acid | 3M, 200 mL | Cl | ClH
reactant | sodium hydroxide | 8M | [OH-].[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 21.1 g, 84% | O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CC2 | C29H30N4O2
